US05885986
0.89 g (0.00232 mol) of 3-(5-diethylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one in 50 ml of ethyl acetate was treated with 0.66 ml (0.00244 mol) of 3.7N ethanolic hydrochloric acid. After stirring at 0° for 1/2 hr. the white suspension was suction filtered. There was obtained 0.94 g (97%) of 3-(5-diethylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1) as whitish crystals; m.p. 247°-250° (dec.).

reactant | 3-(5-diethylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | 0.00232 mol, 0.89 g | C(C)N(CC)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C20H22FN5O2
reactant | hydrochloric acid | 0.00244 mol, 3.7N, 0.66 ml | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(5-diethylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 0.94 g, 97% | Cl.C(C)N(CC)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | InChI=1S/C20H22FN5O2.ClH/c1-4-25(5-2)10-14-9-22-19(28-14)18-17-11-24(3)20(27)15-8-13(21)6-7-16(15)26(17)12-23-18;/h6-9,12H,4-5,10-11H2,1-3H3;1H
